US07696221B2
Step 3: Thieno[3,2-c]isoquinoline (Compound 4a)
Tert-butyl 2-bromothien-3-ylcarbamate (35 g, 0.13 mol), 2-Formylphenylboronic acid (Cmpd IIIa, 25 g, 0.17 mol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium [II] (5.3 g, 6.5 mmol), and sodium bicarbonate (33 g, 0.39 mol) were combined in 40% aqueous dimethoxyethane (675 mL) and the mixture was heated to reflux. After 1 h the mixture was cooled to 23° C., treated slowly with 2 N aqueous hydrochloric acid (405 mL) and heated back to reflux for an additional 2 h. At this time the mixture was cooled to 23° C., treated slowly with 2.5 N aqueous sodium hydroxide (270 mL) and stirred for ca. 15 min. The mixture was filtered through Celite and washed with ethyl acetate (2.2 L). The organic layer was separated from the filtrate and washed with water and brine (2.2 L each), dried (K2CO3), and concentrated in vacuo to give the crude product (28 g) as a dark oil. The oil was taken up in methylene chloride (75 mL) and pre-adsorbed on silica gel (75 g). Flash chromatography on silica gel (725 g) eluting 5-, then 10-, and then 20% ethyl acetate-hexane gave the title compound (19 g, 83%, m.p. 58-61° C.) as a yellow-brown solid which was pure enough for further use.

reactant | Tert-butyl 2-bromothien-3-ylcarbamate | 0.13 mol, 35 g | BrC=1SC=CC1NC(OC(C)(C)C)=O | C9H12BrNO2S
reactant | 2-Formylphenylboronic acid | 0.17 mol, 25 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium bicarbonate | 0.39 mol, 33 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 2 N, 405 mL | Cl | ClH
reactant | sodium hydroxide | 2.5 N, 270 mL | [OH-].[Na+]
solvent | dimethoxyethane | 675 mL | C(OC)COC | C4H10O2
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium | 6.5 mmol, 5.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | Thieno[3,2-c]isoquinoline | 19 g, 83% | S1C=CC=2N=CC=3C=CC=CC3C21 | C11H7NS
